US05079382
(3S)-3,4-Dihydroxybutyronitrile (43.1 g, 426 mmol), pyridine (240 ml) and tosyl chloride (119.5 g) were mixed at 0° C. for 4 hours. The mixture was poured in ice-cooled 1N hydrochloric acid and stirred, followed by extraction with ethyl acetate. After the organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated off with an evaporator. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain (3S)-3-hydroxy-4-p-toluenesulfonyloxybutyronitrile (87.0 g, 340 mmol). Yield, 80 %.

reactant | (3S)-3,4-Dihydroxybutyronitrile | 426 mmol, 43.1 g | O[C@@H](CC#N)CO | C4H7NO2
reactant | tosyl chloride | 119.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | 240 ml | N1=CC=CC=C1 | C5H5N
product | (3S)-3-hydroxy-4-p-toluenesulfonyloxybutyronitrile | 340 mmol, 87.0 g | O[C@@H](CC#N)COS(=O)(=O)C1=CC=C(C=C1)C | C11H13NO4S
